US06288086B1
4-(4-Butoxy-benzenesulfonyl)-1-(3,4-dichloro-benzyl)-piperidine-4-carboxylic acid ethyl ester was prepared according to the general method outlined in example 83. Starting from (4-butoxy-benzenesulfonyl)acetic acid ethyl ester (13.2 g 44 mmol) (3,4-dichloro-benzyl)-bis-(2-chloro-ethyl)-amine (14.3 g, mmol). Yield 14.1 g (60%), white solid, MP 86° C.; MS: 527.9 (M+H)+

reactant | (4-butoxy-benzenesulfonyl)acetic acid ethyl ester | 44 mmol, 13.2 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OCCCC)=O | C14H20O5S
reactant | (3,4-dichloro-benzyl)-bis-(2-chloro-ethyl)-amine | 14.3 g | ClC=1C=C(CN(CCCl)CCCl)C=CC1Cl | C11H13Cl4N
product | 4-(4-Butoxy-benzenesulfonyl)-1-(3,4-dichloro-benzyl)-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCN(CC1)CC1=CC(=C(C=C1)Cl)Cl)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C25H31Cl2NO5S
